US07691860B2
Preparation of 8-(cis-4-tert-butylsulfonylamino-cyclohexyl)-2-phenylpurine
By following the same procedure as described in Example 1 except that use was made of 4,5-diamino-2-phenylpyrimidine and cis-4-tert-butylsulfonylaminocyclohexanecarboxylic acid in place of 4-trifluoromethyl-1,2-phenylenediamine, the title compound was prepared.

reactant | 4,5-diamino-2-phenylpyrimidine | NC1=NC(=NC=C1N)C1=CC=CC=C1 | C10H10N4
reactant | cis-4-tert-butylsulfonylaminocyclohexanecarboxylic acid | C(C)(C)(C)S(=O)(=O)N[C@H]1CC[C@H](CC1)C(=O)O | C11H21NO4S
product | 8-(cis-4-tert-butylsulfonylamino-cyclohexyl)-2-phenylpurine | C(C)(C)(C)S(=O)(=O)N[C@H]1CC[C@H](CC1)C1=NC2=NC(=NC=C2N1)C1=CC=CC=C1 | C21H27N5O2S
